US08859602B2
g) 4-Cyano-1H-imidazole-2-carboxylic acid [2-(4-methyl-piperidin-1-yl)-4-(4-pyrrolidin-1-ylmethyl-tetrahydro-pyran-4-yl)-phenyl]-amide
The title compound is prepared by the procedure of Example 26, step (b) using 4-cyano-1H-imidazole-2-carboxylic acid [4-(4-formyl-tetrahydro-pyran-4-yl)-2-(4-methyl-piperidin-1-yl)-phenyl]-amide (as prepared in the previous step) and pyrrolidine.

reactant | 4-cyano-1H-imidazole-2-carboxylic acid [4-(4-formyl-tetrahydro-pyran-4-yl)-2-(4-methyl-piperidin-1-yl)-phenyl]-amide | C(=O)C1(CCOCC1)C1=CC(=C(C=C1)NC(=O)C=1NC=C(N1)C#N)N1CCC(CC1)C | C23H27N5O3
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 4-Cyano-1H-imidazole-2-carboxylic acid [2-(4-methyl-piperidin-1-yl)-4-(4-pyrrolidin-1-ylmethyl-tetrahydro-pyran-4-yl)-phenyl]-amide | CC1CCN(CC1)C1=C(C=CC(=C1)C1(CCOCC1)CN1CCCC1)NC(=O)C=1NC=C(N1)C#N | C27H36N6O2
